US04506099
400 g of 2-methylallylamine are dissolved in 400 ml of toluene in a 2.5 liter sulfonating flask, and 450 g of microfilter are added. A solution of 700 g of 2,2,6,6-tetramethyl-4-piperidone in 300 ml of toluene is then added dropwise in such a manner that the reaction temperature is kept at 30°-35° C. After the addition is completed, stirring is maintained for 6 hours at room temperature. The mixture is filtered off from the microfilter, and the solvent is removed in a rotary evaporator. Distillation of the residue yields 778 g of N-(2,2,6,6-tetramethyl-4- piperidylidene)-2-methylallylamine, corresponding to 83% of theory, in the form of a colourless liquid having a boiling point of 63° C. at 40 Pa.

reactant | 2-methylallylamine | 400 g | CC(CN)=C | C4H9N
reactant | 2,2,6,6-tetramethyl-4-piperidone | 700 g | CC1(NC(CC(C1)=O)(C)C)C | C9H17NO
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,2,6,6-tetramethyl-4- piperidylidene)-2-methylallylamine | 778 g | CC1(NC(CC(C1)=NCC(=C)C)(C)C)C | C13H24N2
